US05696129
2-Methylfurano[2,3-c]pyridine-7-carboxylic acid
A solution of 7-bromo-2-methylfurano[2,3-c]pyridine (1.76 g) in dry diethyl ether (45 ml) under an atmosphere of nitrogen, was cooled to -78° C. and treated with n-butyllithium (1.6M in hexane) (5.8 ml). After stirring for 2 hours, the reaction mixture was poured onto a mixture of solid carbon dioxide pellets and diethyl ether (5 ml). After warming to room temperature, the solvent was removed under reduced pressure. The residue was triturated with diethyl ether and filtered to give the title compound as a pale pink powder 1.45 g.

reactant | 7-bromo-2-methylfurano[2,3-c]pyridine | 1.76 g | BrC=1N=CC=C2C1OC(=C2)C | C8H6BrNO
reactant | n-butyllithium | 1.6M, 5.8 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | diethyl ether | 45 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 2-Methylfurano[2,3-c]pyridine-7-carboxylic acid | 1.45 g | CC1=CC=2C(=C(N=CC2)C(=O)O)O1 | C9H7NO3
